US07482350B2
Step 5. Preparation of 2-(2,6-dimethylphenyl)-5-[(5-isopropyl-2-methylphenoxy)methyl]-4-methyl-6-[(3R)-3-methylpiperazin-1-yl]pyrimidine
A mixture of 4-chloro-2-(2,6-dimethylphenyl)-5-[(5-isopropyl-2-methylphenoxy)methyl]-6-methylpyrimidine (0.1 mmol in 0.5 mL DMA), (R)-2-methyl-piperazine (40 mg) and sodium carbonate (85 mg) is heated at 100° C. with agitation for 18 h. The reaction mixture is allowed to cool and partitioned between EtOAc (6 mL) and water (2 mL). The organic layer is separated, washed with water (2 mL×2), brine (2 mL), dried over anhydrous sodium sulfate, filtered and evaporated to obtain a colorless oil. Purification by chromatography on silica gel (2% MeOH/DCM/0.1% Ammonium hydroxide) provides the title compound as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 7.06-7.26 (m, 4H), 6.79-6.82 (m, 2H), 4.97 (dd, 2H), 3.89-3.96 (m, 2H), 2.87-3.05 (m, 5H), 2.62-2.69 (m, 1H), 2.56 (s, 3H), 2.23 (s, 3H), 2.16 (s, 6H), 1.27 (d, J=6.8 Hz, 6H), 0.93 (d, J=6.6 Hz, 3H).

reactant | 4-chloro-2-(2,6-dimethylphenyl)-5-[(5-isopropyl-2-methylphenoxy)methyl]-6-methylpyrimidine | 0.1 mmol, 0.5 mL | ClC1=NC(=NC(=C1COC1=C(C=CC(=C1)C(C)C)C)C)C1=C(C=CC=C1C)C | C24H27ClN2O
reactant | (R)-2-methyl-piperazine | 40 mg | C[C@H]1NCCNC1 | C5H12N2
reactant | sodium carbonate | 85 mg | C([O-])([O-])=O.[Na+].[Na+]
product | 2-(2,6-dimethylphenyl)-5-[(5-isopropyl-2-methylphenoxy)methyl]-4-methyl-6-[(3R)-3-methylpiperazin-1-yl]pyrimidine | CC1=C(C(=CC=C1)C)C1=NC(=C(C(=N1)C)COC1=C(C=CC(=C1)C(C)C)C)N1C[C@H](NCC1)C | C29H38N4O
